US08217069B2
To a solution of 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-hydroxymethyl-6-methoxy-7,9-dihydro-8H-purin-8-one (0.34 g) and triphenyl-phosphine (0.43 g) in N,N-dimethylformamide (4 mL) was added carbon tetrachloride (1 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into 10% aqueous sodium chloride solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−1/20) to give 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-chloromethyl-6-methoxy-7,9-dihydro-8H-purin-8-one (0.34 g). The mixture of the obtained 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-chloromethyl-6-methoxy-7,9-dihydro-8H-purin-8-one (50 mg), dimethylamine (50% aqueous solution, 0.1 mL) and sodium iodide (14 mg) in 2-propanol (1 mL)-acetonitrile (1 mL) was stirred at 60° C. for 4 hours. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate−ethyl acetate/methanol=7/3). The obtained product was suspended in diethyl ether, and collected by filtration. The collected material was dried under reduced pressure to give the title compound (12 mg).

reactant | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-hydroxymethyl-6-methoxy-7,9-dihydro-8H-purin-8-one | 0.34 g | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)CO | C22H19ClF2N4O6
reactant | triphenyl-phosphine | 0.43 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 1 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-chloromethyl-6-methoxy-7,9-dihydro-8H-purin-8-one | 0.34 g | ClC1=C(C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)CCl | C22H18Cl2F2N4O5
